US06046201
N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide
To a solution of 0.26 g of potassium iodide in 2 ml of phosphoric acid was added 0.10 g of N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide and the mixture was stirred at 110° C. for 3 hours. The reaction solution was diluted with water, and a saturated aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium thiosulfate were added. The mixture was extracted with chloroform. The organic layer was washed with water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to afford 0.11 g of the title compound.

reactant | potassium iodide | 0.26 g | [I-].[K+]
reactant | N-(12-hydroxydodecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 0.10 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H42N4O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | phosphoric acid | 2 ml | P(O)(O)(O)=O | H3O4P
solvent | water | O | H2O
product | N-(12-Iodododecyl)-6-(4-ethyl-1-piperazinyl)pyridine-3-carboxamide | 0.11 g | ICCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)CC | C24H41IN4O
